US07319103B2
To a stirred slurry of sodium hydride (1.67 g, 60% in mineral oil, 44.0 mmol) in dried ether was added with ethyl glycolate, dropwise over 15 minutes. The reaction was warmed up to room temperature for 30 min while stirring and concentrated in vacuo to provide white solid. The solid was treated with methyl acrylate (4.16 g, 49 mmol) in DMSO (20 mL) at 0° C. for 15 minutes and room temperature for 45 minutes. The mixture was poured into 5% H2SO4 and extracted with ethyl acetate. Organic layer was washed with brine, dried over Mg2SO4 and concentrated to give 4-oxo-tetrahydro-furan-3-carboxylic acid methyl ester as a colorless oil.

reactant | sodium hydride | 44.0 mmol, 1.67 g | [H-].[Na+]
reactant | ethyl glycolate | C(CO)(=O)OCC | C4H8O3
reactant | methyl acrylate | 49 mmol, 4.16 g | C(C=C)(=O)OC | C4H6O2
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | ether | CCOCC | C4H10O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-oxo-tetrahydro-furan-3-carboxylic acid methyl ester | COC(=O)C1COCC1=O | C6H8O4
